US05691323
Sodium borohydride (0.69 g) was added in portions to a stirred solution of acetylpyrazine (1.49 g) in ethanol (300 mL) at 0° C. The mixture was allowed to warm to room temperature and stirred for 20 min, then water (100 mL) was added and the mixture adjusted to pH 7 with 1N hydrochloric acid. The neutralized solution was concentrated in vacuo to a volume of 200 mL, saturated with sodium chloride, and extracted with ethyl acetate (3×500 mL). The organic extracts were dried (Na2 SO4) and concentrated to give a solid which was washed with dichloromethane (4×100 mL). The dichloromethane washings were concentrated to give 2-(1-hydroxyethyl)pyrazine (1.38 g) as a colorless oil.

reactant | Sodium borohydride | 0.69 g | [BH4-].[Na+]
reactant | acetylpyrazine | 1.49 g | C(C)(=O)C1=NC=CN=C1 | C6H6N2O
reactant | water | 100 mL | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-(1-hydroxyethyl)pyrazine | 1.38 g | OC(C)C1=NC=CN=C1 | C6H8N2O
